US06316635B1
Preparation of 5-Carboxyethyl-2-indolinone
Synthesis of 5-Cyanoethyl-2-indolinone Potassium cyanide (2.02 g) was added to 15 mL of dimethylsulfoxide and heated to 90° C. 5-Chloroethyl-2-indolinone (3.0 g) dissolved in 5 mL of dimethyl sulfoxide was added slowly with stirring, and the reaction heated to 150° C. for 2 hours. The mixture was cooled, poured into ice water and the precipitate collected by vacuum filtration, washed with water, and dried to give crude product. The crude material was chromatographed on silica gel in 5% methanol in chloroform to give 1.2 g (42% yield) of the title compound.

reactant | 5-Cyanoethyl-2-indolinone Potassium cyanide | 2.02 g | [C-]#N.[K+].C(#N)CCC=1C=C2CC(NC2=CC1)=O
reactant | 5-Chloroethyl-2-indolinone | 3.0 g | ClCCC=1C=C2CC(NC2=CC1)=O | C10H10ClNO
reactant | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 5-Carboxyethyl-2-indolinone | 1.2 g, 42% yield | C(=O)(O)CCC=1C=C2CC(NC2=CC1)=O | C11H11NO3
